US04064266
To 3-tert-butyl-4-hydroxybenzaldehyde (3 gm) in acetic acid (30 ml) was added dropwise bromine (1.5 ml). The mixture was stirred at 25° for 3 hours and the solvent removed in vacuo. Recrystallisation of the residue from aqueous ethanol gave 3-bromo-5-tert-butyl-4-hydroxybenzaldehyde (3.2 gm) m.p. 126°.

reactant | 3-tert-butyl-4-hydroxybenzaldehyde | 3 gm | C(C)(C)(C)C=1C=C(C=O)C=CC1O | C11H14O2
reactant | bromine | 1.5 ml | BrBr | Br2
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 3-bromo-5-tert-butyl-4-hydroxybenzaldehyde | 3.2 gm | BrC=1C=C(C=O)C=C(C1O)C(C)(C)C | C11H13BrO2
